US08957064B2
Step 3: 5-chloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl-methylamine
1 g (2.9 mmol) 5,7-dichloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine are given in 8.2 mL DMF (no complete dissolution). After addition of 3.65 mL of a 2M (7.3 mmol) solution of methylamine in THF the reaction mixture is heated in a microwave oven at 100° C. for 20 minutes. From the clear brown solution the DMF is evaporated, the residue is diluted with brine and extracted three times with dichloromethane. The combined organic extracts are dried over Na2SO4 and the solvent is evaporated and the residue purified by chromatography (silicagel, eluents: dichloromethane, methanol). 265 mg (26.9%) of the desired product are obtained.

reactant | 5,7-dichloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidine | 2.9 mmol, 1 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)C2=NC=CC=C2 | C16H9Cl2N5
reactant | methylamine | CN | CH5N
solvent | DMF | 8.2 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 5-chloro-6-phenyl-2-pyridine-2-yl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl-methylamine | 265 mg, 26.9% | ClC1=NC=2N(C(=C1C1=CC=CC=C1)NC)N=C(N2)C2=NC=CC=C2 | C17H13ClN6
